US03951981
Preparation of 10-(1-Piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine
A bomb charged with 2.5 g. of 10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine, 8.6 g. of piperazine, and three drops of acetic acid is placed in an oil bath and heated at 155°-160°C. for 4 days. The bomb is then cooled and the contents are dissolved in 2N acetic acid. The solution is filtered and the filtrate is made alkaline with ammonium hydroxide and extracted with chloroform. The extracts are dried, filtered and evaporated to give a yellow solid. Recrystallization from ethanol gives the product as light tan crystals which melt at 228°-231°C. (dec.).

reactant | 10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine | CSC=1C=2C(NC3=C(N1)C=CC=C3)=CSC2 | C12H10N2S2
reactant | piperazine | N1CCNCC1 | C4H10N2
catalyst | acetic acid | three drops | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2N | C(C)(=O)O | C2H4O2
product | 10-(1-Piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine | N1(CCNCC1)C=1C=2C(NC3=C(N1)C=CC=C3)=CSC2 | C15H16N4S
